Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril / adhesive / milk / propoxyphene / Sulfa (Sulfonamide 
Antibiotics) / Vicodin
 
Attending: ___.
 
Chief Complaint:
facial swelling
 
Major Surgical or Invasive Procedure:
None this hospitalization

 
History of Present Illness:
This is a ___ old Female with PMH significant for 
sarcoidosis, hypertension, obesity, history of thyroid carcinoma 
(treated with total thyroidectomy with RAI now on 
supplementation) and hyperlipidemia who presents with recurrent 
angioedema.

The patient noted the acute onset of left-sided facial swelling 
which she developed upon awakening this morning around 8 AM. 
This also progressed to left lip swelling and numbness several 
hours later. She denies pain or pruritis. She also noted a 
sensation of 'pins and needles' in her fingertips that resolved 
prior to arrival. She denies any recent changes in oral or 
topical medications. She denies dyspnea or chest pain. She has 
no throat tingling or tongue swelling. No prior history of 
anaphylaxis.

She presented to ___ in ___ with similar 
symptoms to the above and was noted to have angioedema in the 
setting of ACEI use, specifically lisinopril. She was admitted 
for observation and did not require intubation - however, ENT 
performed an NPL that admisison which was negative for laryngeal 
edema. She was discharged with a short course of prednisone and 
saw allergy as an outpatient (Dr. ___. She has not 
taken an ACEI since. Her C1 inhibitor level was 49 (high) and 
normal C4. 

She reports that just prior to the above episode she had some 
stomach cramps and loose stools then developed the facial 
swelling symptoms, which also occurred this time.

ED Course:
- initial VS: 96.4 106 169/76 16 99% RA 
- Swelling noted to spread across upper lip
- Labs not obtained in the ED
- She received diphenhydramine 75 mg IV x 1, prednisone 20 mg PO 
x 1, famotidine 20 mg IV x 1

REVIEW OF SYSTEMS: See HPI for pertinent details. Denies fevers 
or chills; no nightsweats. No headaches or visual changes. No 
chest pain or difficulty breathing. No notable upper respiratory 
symptoms or cough. Denies nausea and emesis or abdominal pain. 
No loose stools or diarrhea now, nor constipation. No dysuria or 
hematuria. No new rashes, lesions or ulcers. No extremity 
swelling, athralgias or joint complaints. No pertinent weight 
loss or gain, change in dietary habits.
 
Past Medical History:
- Hypertension
- Sarcoidosis
- Uterine leiomyoma
- Cervical polyps
- Obesity
- Hyperlipidemia
- Carpal tunnel syndrome
- History of thyroid cancer
- Trochanteric bursitis of the hips
 
Social History:
___
Family History:
The patient denies a history of premature cardiac disease such 
as MI, arrhythmia or sudden cardiac death. No significant 
malignancy history. daughter alive and well. Father died at ___ 
with DM, HTN. MGM with diabetes. Sister alive with cancer.
 
Physical Exam:
ADMISSION EXAM
===============

Vitals:  98.2     85     144/74     16   96% RA
General: patient appears in NAD. Appears stated age. Non-toxic 
appearing.
HEENT: normocephalic, atraumatic. PERRL. EOMI. Upper lips with 
notable swelling extending to below nares, no erythema. Nares 
clear. Oropharynx with no notable lesions, plaques or exudates. 
Good dentition. Neck supple. No lymphadenopathy.
___: regular rate and rhythm. No murmurs. S1 and S2 noted.
Respiratory: Demonstrates unlabored breathing. Clear to 
auscultation bilaterally without adventitious sounds such as 
wheezing, rhonchi or rales. No audible stridor.
Abdomen: soft, non-tender, non-distended with normoactive bowel 
sounds; no significant abdominal scars.
Extremities: warm, well-perfused distally; 2+ distal pulses 
bilaterally with no cyanosis, clubbing or peripheral edema
Derm: skin appears intact with no significant rashes or lesions
Neuro: alert and oriented to self, place and time. Normal bulk 
and tone. Motor and sensory function are grossly normal. Gait 
deferred.

DISCHARGE EXAM
===============

Vitals:  98.3     79     139/62     16   99% RA
General: patient appears in NAD. Appears stated age. Non-toxic 
appearing.
HEENT: normocephalic, atraumatic. PERRL. EOMI. Upper lips with 
notable swelling extending to below nares is much improved this 
morning, with no erythema. Nares clear. Oropharynx with no 
notable lesions, plaques or exudates. Good dentition. Neck 
supple. No lymphadenopathy.
___: regular rate and rhythm. No murmurs. S1 and S2 noted.
Respiratory: Demonstrates unlabored breathing. Clear to 
auscultation bilaterally without adventitious sounds such as 
wheezing, rhonchi or rales. No audible stridor.
Abdomen: soft, non-tender, non-distended with normoactive bowel 
sounds; no significant abdominal scars.
Extremities: warm, well-perfused distally; 2+ distal pulses 
bilaterally with no cyanosis, clubbing or peripheral edema
Derm: skin appears intact with no significant rashes or lesions
Neuro: alert and oriented to self, place and time. Normal bulk 
and tone. Motor and sensory function are grossly normal. Gait 
deferred.
 
Pertinent Results:
ADMISSION LABS
===============

___ 06:00PM BLOOD WBC-8.2 RBC-4.96 Hgb-15.6 Hct-44.9 MCV-91 
MCH-31.3 MCHC-34.6 RDW-12.3 Plt ___
___ 06:00PM BLOOD Neuts-88.7* Lymphs-8.2* Monos-0.5* 
Eos-2.1 Baso-0.5
___ 06:00PM BLOOD Plt ___

DISCHARGE LABS
===============

___ 05:23AM BLOOD WBC-6.8 RBC-5.06 Hgb-15.7 Hct-45.7 MCV-90 
MCH-31.0 MCHC-34.4 RDW-12.2 Plt ___
___ 05:23AM BLOOD Neuts-70.6* ___ Monos-7.5 Eos-2.2 
Baso-0.3
___ 05:23AM BLOOD TotProt-6.7
___ 05:23AM BLOOD PEP-PND
___ 05:23AM BLOOD C3-PND C4-PND
___ 05:23AM BLOOD C1 ESTERASE INHIBITOR, FUNCTIONAL 
ASSAY-PND
___ 05:23AM BLOOD TRYPTASE-PND
___ 05:23AM BLOOD CH50 - FROZEN-PND
___ 05:23AM BLOOD C1 INHIBITOR-PND

MICROBIOLOGY
=============

None

IMAGING STUDIES
================

None
 
Brief Hospital Course:
IMPRESSION: ___ with PMH significant for sarcoidosis, 
hypertension, obesity, history of thyroid carcinoma (treated 
with total thyroidectomy with RAI now on supplementation) and 
hyperlipidemia who presents with recurrent angioedema who 
appears stable with no concern for impending upper airway 
obstruction.

# Recurrent angioedema - Evidence of recurrent angioedema in the 
setting of ACEI which in discussion with allergy can occur 
within ___ of administration (but is most common within 
6-weeks). She is now ___ months from her first event and has had 
recurrence. Given these concerns we assessed for an acquired or 
hereditary complement disorder. Discussed case with on-call 
allergist, Dr. ___ phone. We will check hereditary and 
acquired complement labs, oral anti-histamine and prednisone for 
2-more days. CBC without eosinophilia. She had no airway 
obstruction issues and normal oxygen saturations overnight. Lip 
swelling improved in the morning without progression. Tolerated 
diet. Discharged with close allergy follow-up.

# Hypertension - Stable on admission. Continued CCB and HCTZ.

# Sarcoidosis - No acute concerns. Not currently on 
immunosuppressive agents at present.

# History of thyroid carcinoma - Status-post thyroidectomy. 
Completed RAI. Continued on thyroid supplementation.

# Hyperlipidemia - Continued statin, but decreased dosing given 
interaction with CCB.

TRANSITIONAL ISSUES
=====================
- Dr. ___ with allergy ___ follow-up C3, C4, CH50, C1 
inhibitor level, C1 esterase functional/antigen; SPEP; total 
tryptase level per allergy
- no epinpehrine safety pen required per allergy attending
- follow-up in 1-week with Dr. ___ ___ - patient 
needs to schedule follow-up
- patient's simvastatin was decreased to 20 mg given the 
interaction with the CCB and the risk for rhabdomyolysis
- she should AVOID ACEI and ___ medications
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 137 mcg PO DAILY 
2. Amlodipine 5 mg PO DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Simvastatin 40 mg PO DAILY 
5. Albuterol Inhaler ___ PUFF IH Q4-6H:PRN wheezing, shortness 
of breath 
6. calcium citrate-vitamin D2 (calcium citrate-vitamin D3) 500 
mg-100 units oral BID 
7. Fish Oil (Omega 3) 1000 mg PO DAILY 
8. Ascorbic Acid ___ mg PO DAILY 
9. Multivitamins 1 TAB PO DAILY 
10. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1. Albuterol Inhaler ___ PUFF IH Q4-6H:PRN wheezing, shortness 
of breath 
2. Amlodipine 5 mg PO DAILY 
3. Ascorbic Acid ___ mg PO DAILY 
4. Aspirin 325 mg PO DAILY 
5. Hydrochlorothiazide 25 mg PO DAILY 
6. Levothyroxine Sodium 137 mcg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. Simvastatin 20 mg PO DAILY 
This dose should be decreased since it interacts with one of 
your other medications. 
9. calcium citrate-vitamin D2 (calcium citrate-vitamin D3) 500 
mg-100 units oral BID 
10. Fish Oil (Omega 3) 1000 mg PO DAILY 
11. Cetirizine 10 mg oral BID 
continue until your allergy follow-up appointment 
RX *cetirizine 10 mg 1 tablet(s) by mouth twice daily Disp #*20 
Tablet Refills:*0
12. PredniSONE 40 mg PO DAILY Duration: 1 Day 
for 2-total doses (received 1 dose in ICU) 
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*2 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
- Recurrent angioedema

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mrs. ___,

___ were admitted to the medical intensive care unit at ___ 
___ at the ___ 6 
regarding management of your recurrent angioedema (swelling) of 
the lips and mouth in the setting of your prior ACEI 
(lisinopril) use. Your case was discussed with the allergist and 
we will discharge ___ with a short course of steroids and close 
allergy outpatient follow-up. ___ were monitored in the ICU 
overnight and stable in the morning for discharge. 
 
Please call your doctor or go to the emergency department if:
* ___ experience new chest pain, pressure, squeezing or 
tightness.
* ___ develop new or worsening cough, shortness of breath, or 
wheezing.
* ___ are vomiting and cannot keep down fluids, or your 
medications.
* If ___ are getting dehydrated due to continued vomiting, 
diarrhea, or other reasons. Signs of dehydration include: dry 
mouth, rapid heartbeat, or feeling dizzy or faint when standing.
* ___ see blood or dark/black material when ___ vomit, or have a 
bowel movement.
* ___ experience burning when ___ urinate, have blood in your 
urine, or experience an unusual discharge.
* ___ have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
* ___ develop any other concerning symptoms.
 
Followup Instructions:
___